US08871767B2
6-bromo-2-[3-amino-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine
Fe (0.447 g) is added to a mixture of 6-bromo-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine (0.618 g), HOAc (0.733 mL), and EtOH—H2O (10 mL, 4:1). The mixture is stirred at 80° C. for 2 hours, then concentrated, taken into sat. aqueous NaHCO3 and extracted with EtOAc and CH2Cl2. Organics are dried and concentrated to give the title compound (463 mg), which is used without further purification. LCMS m/z=356.4 [M+H]+, tR=2.04 min.

reactant | 6-bromo-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine | 0.618 g | BrC=1C=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C14H7BrF3N3O2
reactant | HOAc | 0.733 mL | CC(=O)O | C2H4O2
catalyst | Fe | 0.447 g | [Fe] | Fe
solvent | EtOH—H2O | 10 mL | C(C)O.O
product | 6-bromo-2-[3-amino-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyridine | 463 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)N | C14H9BrF3N3
